US05318720
In a 50 ml-three-necked flask, 1.10 g (4.93 mM) of 2-nitro-4-hexylphenol, 0.30 g of activated carbon, 0.02 g of FeCl3.6H2O and 5 ml of ethanol were placed and heated to 55°-70° C. under stirring. To the mixture, 1.5 ml of 80% hydrazine hydrate was gradually added dropwise and heated to 70° C., followed by stirring for 30 min at 70°-75° C. After the reaction, the reaction mixture was filtered under heating to remove the activated carbon and the filtrate was poured into water to precipitate a crystal. The crystal was recovered by filtration, followed by drying under reduced pressure to obtain 0.78 g of 2-amino-4-hexylphenol (yield: 81.9%).

reactant | 2-nitro-4-hexylphenol | 4.93 mM, 1.10 g | [N+](=O)([O-])C1=C(C=CC(=C1)CCCCCC)O | C12H17NO3
reactant | hydrazine hydrate | 1.5 ml | O.NN
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2-amino-4-hexylphenol | 0.78 g, yield: 81.9% | NC1=C(C=CC(=C1)CCCCCC)O | C12H19NO
